US08067447B2
Dimethyl 2-((1-(4-fluorophenyl)-1H-indazol-5-yl)methylene)malonate (424 mg, 1.2 mmol) was dissolved in 10 mL dry THF and 1.0M phenylmagnesium bromide in THF (5 mL, 5.0 mmol) was added. The reaction mixture was stirred for 12 h. The reaction was quenched with MeOH then poured into brine and extracted with EtOAc×3. The organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified on SiO2 by MPLC and eluting with 1:3 EtOAc/hexane. Obtained 435 mg (84% yield) of dimethyl 2-((1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl)malonate. MS found: (M+H)+=333.

reactant | Dimethyl 2-((1-(4-fluorophenyl)-1H-indazol-5-yl)methylene)malonate | 1.2 mmol, 424 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C=C(C(=O)OC)C(=O)OC | C19H15FN2O4
reactant | phenylmagnesium bromide | 1.0M | C1(=CC=CC=C1)[Mg]Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mmol, 5 mL | C1CCOC1 | C4H8O
product | dimethyl 2-((1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl)malonate | 435 mg, 84% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)C(=O)OC)C1=CC=CC=C1 | C25H21FN2O4
